US07855216B2
Step 1: 4-Methylamino-nicotinonitrile
4-Chloronicotinonitrile (45.0 g, 324 mmol) was suspended in water (250 mL) and 41% aqueous methylamine solution (250 mL). The resultant mixture was heated, with stirring, at 90° C. for 1 hour before the mixture was cooled to room temperature and extracted with ethyl acetate (×2). The combined organic layers were washed with water, followed by brine then dried (MgSO4) and evaporated to provide a residue. Trituration of the residue with diethyl ether gave the title compound (40.4 g, 93%) as a white solid. 1H NMR (CDCl3) 2.98 (3H, d, J=5.1 Hz), 5.20 (1H, br s), 6.53 (1H, d, J=6.13 Hz), 8.35 (1H, d, J=6.13 Hz), 8.43 (1H, s).

reactant | 4-Chloronicotinonitrile | 324 mmol, 45.0 g | ClC1=CC=NC=C1C#N | C6H3ClN2
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | methylamine | 250 mL | CN | CH5N
solvent | water | 250 mL | O | H2O
product | 4-Methylamino-nicotinonitrile | 40.4 g, 93% | CNC1=CC=NC=C1C#N | C7H7N3
